* C:\powertroll-pcb\Spice\AC_FET_DRIVER.asc
V1 N002 N008 SINE(0 120 60)
R§LOAD N002 N004 8
M1 N004 INPUT_SIGNAL N003 N003 R6020PNJ
M2 N008 INPUT_SIGNAL N003 N003 R6020PNJ
D1 N002 N001 D
C1 N001 N003 1µf
R4 INPUT_SIGNAL N003 500
XU1 N006 0 N001 INPUT_SIGNAL NC_01 4N25
V2 N005 0 PULSE(0 3.3 0 10ns 10ns 50us 200us)
R5 N006 N005 120
R1 N003 0 10meg
.model D D
.lib C:\Users\MCD\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\MCD\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 17ms
* PULSE(0 8 0 10ns 10ns 125us 250us)
* PULSE(0 8 0 10ns 10ns 6ms 40ms)
.lib 4N25.sub
.backanno
.end
